US09353081B2
(rac)-Ethanesulfonic acid [4-(7-chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6,7,8-tetrahydro-isoquinolin-8-yl]-amide
In analogy to the procedure described for the preparation of example 28, 7-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-10) and (rac)-ethanesulfonic acid (4-bromo-5,6,7,8-tetrahydro-isoquinolin-8-yl)-amide (intermediate B-4) were used to give the title compound as a white solid in 40% yield. MS: 434.2 (M+H)+.

reactant | 7-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | ClC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BClNO3
reactant | (rac)-ethanesulfonic acid (4-bromo-5,6,7,8-tetrahydro-isoquinolin-8-yl)-amide | BrC1=CN=CC=2C(CCCC12)NS(=O)(=O)CC | C11H15BrN2O2S
product | (rac)-Ethanesulfonic acid [4-(7-chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6,7,8-tetrahydro-isoquinolin-8-yl]-amide | 40% yield | ClC1=C(C=C2CCC(N(C2=C1)C)=O)C1=CN=CC=2C(CCCC12)NS(=O)(=O)CC | C21H24ClN3O3S
